US06562846B2
1-(5-Bromo-pentyl)-2-methyl-4,5-diphenyl-1H-imidazole:
(Scheme 2 (E)) To a solution of 2-Methyl-4,5-diphenyl-1H-imidazole (2.0 g, 8.5 mmol) and 1,5-dibromopentane (3.01 g, 12.7 mmol) in DMF (100 mL) was added NaH (60% in mineral oil, 0.50 g, 12.7 mmol). The resulting mixture was stirred at rt for 1 hour, quenched by addition of water, extracted by CH2Cl2, washed by water, and then was dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash chromatography (SiO2: EtOAc/Hexanes). This compound was obtained as a pale yellow oil (2.2 g, 5.7 mmol, 67% yield): 1H NMR (DMSO): δ1.20 (m, 2H), 1.47 (m, 2H), 1.64 (m, 2H), 2.41 (s, 3H), 3.45 (t, 2H), 3.72 (t, 2H), 7.16 (m, 3H), 7.31 (m, 4H), 7.55 (t, 3H). Mass Spec: 384.57 (MH+).

reactant | 2-Methyl-4,5-diphenyl-1H-imidazole | 8.5 mmol, 2.0 g | CC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2
reactant | 1,5-dibromopentane | 12.7 mmol, 3.01 g | BrCCCCCBr | C5H10Br2
reactant | NaH | 12.7 mmol, 0.50 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-(5-Bromo-pentyl)-2-methyl-4,5-diphenyl-1H-imidazole | 5.7 mmol, 2.2 g, 67% yield | BrCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C | C21H23BrN2
